### PR TITLE
[Merged by Bors] - feat: representatives for the `FixedDetMatrices` under SL action

### PR DESCRIPTION
**Pull request by CBirkbeck**
Define the set of representatives under the action of SL(2, ZZ) and give some reduction lemmas that are useful for later proving that SL(2, ZZ) is generated by S, T.

---

- [x] depends on: #16159 
[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean [hunk 1]
```diff
@@ -52,4 +53,261 @@ lemma smul_coe (m : R) (g : SpecialLinearGroup n R) (A : FixedDetMatrix n R m) :
...
+  simp_rw [reduce_step, smul_coe, coe_T_zpow, S]
+  simp only [Int.reduceNeg, Fin.isValue, cons_mul, Nat.succ_eq_add_one, Nat.reduceAdd, empty_mul,
+    Equiv.symm_apply_apply, vecMul_cons, vecHead, cons_val_zero, zero_smul, vecTail,
+    Function.comp_apply, Fin.succ_zero_eq_one, cons_val_one, cons_val_fin_one, neg_smul, one_smul,
+    empty_vecMul, add_zero, zero_add, of_apply, cons_val', Pi.neg_apply, vecMul, cons_dotProduct,
+    zero_mul, one_mul, dotProduct_empty, mul_comm, mul_neg, ← Int.sub_eq_add_neg,
+    Eq.symm (Int.emod_def (A.1 0 0) (A.1 1 0)), empty_val']
+  apply le_trans _ (Int.emod_lt (A.1 0 0) (abs_ne_zero.mp h))
+  simp only [Fin.isValue, Int.cast_id, add_le_add_iff_right]
+  rw [abs_eq_self.mpr (Int.emod_nonneg (A.1 0 0) (abs_ne_zero.mp h))]
```
Comment (MichaelStollBayreuth) [inline Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:80]:
```suggestion
  simpa only [Int.reduceNeg, Fin.isValue, cons_mul, Nat.succ_eq_add_one, Nat.reduceAdd, empty_mul,
    Equiv.symm_apply_apply, vecMul_cons, vecHead, cons_val_zero, zero_smul, vecTail,
    Function.comp_apply, Fin.succ_zero_eq_one, cons_val_one, cons_val_fin_one, neg_smul, one_smul,
    empty_vecMul, add_zero, zero_add, of_apply, cons_val', Pi.neg_apply, vecMul, cons_dotProduct,
    zero_mul, one_mul, dotProduct_empty, mul_comm, mul_neg, ← Int.sub_eq_add_neg,
    ← Int.emod_def (A.1 0 0) (A.1 1 0), empty_val',
    abs_eq_self.mpr (Int.emod_nonneg (A.1 0 0) (abs_ne_zero.mp h))]
  using Int.emod_lt (A.1 0 0) (abs_ne_zero.mp h)
```

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean [hunk 2]
```diff
@@ -52,4 +53,261 @@ lemma smul_coe (m : R) (g : SpecialLinearGroup n R) (A : FixedDetMatrix n R m) :
...
+
+/--Reduction lemma for integral FixedDetMatrices. -/
+@[elab_as_elim]
+def reduce_rec {C : Δ m → Sort*} (h0 : ∀ A : Δ m, |(A.1 1 0)| = 0 → C A)
+    (h1 : ∀ A : Δ m, |(A.1 1 0)| ≠ 0 → C (reduce_step m A) → C A) :
+    ∀ A, C A := fun A => by
+  by_cases h : |(A.1 1 0)| = 0
+  · apply h0 _ h
```
Comment (MichaelStollBayreuth) [inline Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:88]:
```suggestion
  · exact h0 _ h
```

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean [hunk 3]
```diff
@@ -52,4 +53,261 @@ lemma smul_coe (m : R) (g : SpecialLinearGroup n R) (A : FixedDetMatrix n R m) :
...
+  · exact h1 A h (reduce_rec h0 h1 (reduce_step m A))
+  termination_by A => Int.natAbs (A.1 1 0)
+  decreasing_by
+    zify
+    apply reduce_aux m A
+    simpa only [Fin.isValue, ne_eq, abs_eq_zero] using h
```
Comment (MichaelStollBayreuth) [inline Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:94]:
```suggestion
    exact reduce_aux m A h
```

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean [hunk 4]
```diff
@@ -52,4 +53,261 @@ lemma smul_coe (m : R) (g : SpecialLinearGroup n R) (A : FixedDetMatrix n R m) :
...
+    if  0 < A.1 0 0 then exact (T ^ (-(A.1 0 1/A.1 1 1))) • A else exact
+      (T ^ (-(-A.1 0 1/ -A.1 1 1))) • ( S • ( S • A)) --the -/- don't cancel with ℤ divs.
+  else
+    exact reduce (reduce_step m A)
+  termination_by b => Int.natAbs (b.1 1 0)
+  decreasing_by
+      next a h =>
+      zify
+      apply reduce_aux m
+      simpa only [Fin.isValue, ne_eq, abs_eq_zero] using h
```
Comment (MichaelStollBayreuth) [inline Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:108]:
```suggestion
def reduce : Δ m → Δ m := fun A ↦
  if |(A.1 1 0)| = 0 then
    if  0 < A.1 0 0 then (T ^ (-(A.1 0 1/A.1 1 1))) • A else
      (T ^ (-(-A.1 0 1/ -A.1 1 1))) • ( S • ( S • A)) --the -/- don't cancel with ℤ divs.
  else
    reduce (reduce_step m A)
  termination_by b => Int.natAbs (b.1 1 0)
  decreasing_by
      next a h =>
      zify
      exact reduce_aux m _ h
```
`by` and `exact` cancel out.

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean [hunk 5]
```diff
@@ -52,4 +53,261 @@ lemma smul_coe (m : R) (g : SpecialLinearGroup n R) (A : FixedDetMatrix n R m) :
...
+  rw [reduce]
+  simp only [Int.cast_id, Fin.isValue, zpow_neg, Int.ediv_neg, neg_neg,
+    dite_eq_ite] at *
+  simp_rw [if_pos hc, if_neg ha]
+
+lemma reduce_eqn3 (A : Δ m) (hc : ¬ |(A.1 1 0)| = 0) :
+    reduce m A = reduce m (reduce_step m A) := by
+  rw [reduce]
+  simp only [Int.cast_id, Fin.isValue, zpow_neg, Int.ediv_neg, neg_neg,
+    dite_eq_ite] at *
```
Comment (MichaelStollBayreuth) [inline Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:127]:
```suggestion
  simp only [zpow_neg, Int.ediv_neg, neg_neg] at *
```

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean [hunk 6]
```diff
@@ -52,4 +53,261 @@ lemma smul_coe (m : R) (g : SpecialLinearGroup n R) (A : FixedDetMatrix n R m) :
...
+
+private lemma A_a_ne_zero (A : Δ m) (ha : A.1 1 0 = 0) (hm : m ≠ 0) : A.1 0 0 ≠ 0 := by
+  have := A.2
+  rw [det_fin_two, ha] at this
+  aesop
+
+private lemma A_c_eq_zero (A : Δ m) (ha : A.1 1 0 = 0) : A.1 0 0 * A.1 1 1 = m := by
+  have := A.2
+  rw [det_fin_two, ha] at this
+  aesop
```
Comment (MichaelStollBayreuth) [inline Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:143]:
```suggestion
private lemma A_c_eq_zero (A : Δ m) (ha : A.1 1 0 = 0) : A.1 0 0 * A.1 1 1 = m := by
  simpa only [det_fin_two, ha, mul_zero, sub_zero] using A.2

private lemma A_d_ne_zero (A : Δ m) (ha : A.1 1 0 = 0) (hm : m ≠ 0) : A.1 1 1 ≠ 0 :=
  right_ne_zero_of_mul (A_c_eq_zero m A ha ▸ hm)

private lemma A_a_ne_zero (A : Δ m) (ha : A.1 1 0 = 0) (hm : m ≠ 0) : A.1 0 0 ≠ 0 :=
  left_ne_zero_of_mul (A_c_eq_zero m A ha ▸ hm)
```

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean [hunk 7]
```diff
@@ -52,4 +53,261 @@ lemma smul_coe (m : R) (g : SpecialLinearGroup n R) (A : FixedDetMatrix n R m) :
...
+
+/--An auxiliary result bounding the size of the entries of the representatives in `reps`. -/
+lemma reps_entries_le_m' (hm : m ≠ 0) (A : Δ m) (h : A ∈ reps m) (i j : Fin 2) :
+    A.1 i j ∈ Finset.Icc (-|m|) |m|:= by
+  have h1 : 0 < |A.1 1 1| := Eq.mpr (id (congrArg (fun _a ↦ _a) (propext abs_pos)))
+    (A_d_ne_zero m A h.left hm)
+  have h2 : 0 < |A.1 0 0| := Eq.mpr (id (congrArg (fun _a ↦ _a) (propext abs_pos)))
+    (A_a_ne_zero m A h.left hm)
```
Comment (MichaelStollBayreuth) [inline Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:151]:
```suggestion
  have h1 : 0 < |A.1 1 1| := abs_pos.mpr (A_d_ne_zero m A h.left hm)
  have h2 : 0 < |A.1 0 0| := abs_pos.mpr (A_a_ne_zero m A h.left hm)
```
Where did these convoluted expressions come from?

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean [hunk 8]
```diff
@@ -52,4 +53,261 @@ lemma smul_coe (m : R) (g : SpecialLinearGroup n R) (A : FixedDetMatrix n R m) :
...
+  fin_cases i <;> fin_cases j
+  · simp only [← A_c_eq_zero m A h.1, Fin.zero_eta, Fin.isValue, Finset.mem_Icc, abs_mul]
+    constructor
+    · rw [neg_le]
+      apply (le_trans (neg_le_abs (A.1 0 0)) ((le_mul_iff_one_le_right h2).mpr h1))
+    · exact le_trans (le_abs_self (A.1 0 0)) ((le_mul_iff_one_le_right h2).mpr h1)
```
Comment (MichaelStollBayreuth) [inline Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:157]:
```suggestion
      exact (neg_le_abs (A.1 0 0)).trans ((le_mul_iff_one_le_right h2).mpr h1)
    · exact (le_abs_self (A.1 0 0)).trans ((le_mul_iff_one_le_right h2).mpr h1)
```

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean [hunk 9]
```diff
@@ -52,4 +53,261 @@ lemma smul_coe (m : R) (g : SpecialLinearGroup n R) (A : FixedDetMatrix n R m) :
...
+  · simp only [Fin.zero_eta, Fin.isValue, Fin.mk_one, Finset.mem_Icc]
```
Comment (MichaelStollBayreuth) [inline Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:158]:
```suggestion
  · simp only [Fin.zero_eta, Fin.mk_one, Finset.mem_Icc]
```

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean [hunk 10]
```diff
@@ -52,4 +53,261 @@ lemma smul_coe (m : R) (g : SpecialLinearGroup n R) (A : FixedDetMatrix n R m) :
...
+    constructor
+    · have := abs_pos.mpr hm
+      have := h.2.2.1
+      omega
+    · simp_rw [← A_c_eq_zero m A h.1, abs_mul]
+      apply le_trans (le_abs_self (A.1 0 1)) (le_trans h.2.2.2.le (le_mul_of_one_le_left h1.le h2))
```
Comment (MichaelStollBayreuth) [inline Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:164]:
```suggestion
      exact (le_abs_self (A.1 0 1)).trans <| h.2.2.2.le.trans (le_mul_of_one_le_left h1.le h2)
```

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean [hunk 11]
```diff
@@ -52,4 +53,261 @@ lemma smul_coe (m : R) (g : SpecialLinearGroup n R) (A : FixedDetMatrix n R m) :
...
+  · simp only [Fin.mk_one, Fin.isValue, Fin.zero_eta, h.1, Finset.mem_Icc, Left.neg_nonpos_iff,
+    abs_nonneg, and_self]
+  · simp only [Fin.mk_one, Fin.isValue, ← A_c_eq_zero m A h.1, abs_mul, Finset.mem_Icc]
```
Comment (MichaelStollBayreuth) [inline Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:167]:
```suggestion
  · simp only [Fin.mk_one, Fin.zero_eta, h.1, Finset.mem_Icc, Left.neg_nonpos_iff, abs_nonneg,
      and_self]
  · simp only [Fin.mk_one, ← A_c_eq_zero m A h.1, abs_mul, Finset.mem_Icc]
```

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean [hunk 12]
```diff
@@ -52,4 +53,261 @@ lemma smul_coe (m : R) (g : SpecialLinearGroup n R) (A : FixedDetMatrix n R m) :
...
+    constructor
+    · rw [neg_le]
+      apply le_trans (neg_le_abs (A.1 1 1)) ((le_mul_iff_one_le_left h1).mpr h2)
+    · exact le_trans (le_abs_self (A.1 1 1)) ((le_mul_iff_one_le_left h1).mpr h2)
```
Comment (MichaelStollBayreuth) [inline Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:171]:
```suggestion
      exact (neg_le_abs (A.1 1 1)).trans ((le_mul_iff_one_le_left h1).mpr h2)
    · exact (le_abs_self (A.1 1 1)).trans ((le_mul_iff_one_le_left h1).mpr h2)
```

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean [hunk 13]
```diff
@@ -52,4 +53,261 @@ lemma smul_coe (m : R) (g : SpecialLinearGroup n R) (A : FixedDetMatrix n R m) :
...
+  constructor
+  · intro h
+    have := A_c_eq_zero 0 _ h.1
+    simp only [Fin.isValue, Set.mem_setOf_eq, mul_eq_zero, Set.mem_empty_iff_false] at *
+    rcases this with hl | hr
+    · exfalso
+      simp only [hl, Fin.isValue, lt_self_iff_false, false_and, and_false] at h
+    · simp only [hr, Fin.isValue, abs_zero] at h
+      exact Lean.Omega.Int.le_lt_asymm (abs_nonneg (A.1 0 1)) (h.2.2.2)
+  · simp only [Set.mem_empty_iff_false, Fin.isValue, Set.mem_setOf_eq, false_implies]
```
Comment (MichaelStollBayreuth) [inline Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:185]:
```suggestion
  refine Set.eq_empty_iff_forall_not_mem.mpr fun A h ↦ ?_
  obtain ⟨h₁, h₂, -, h₄⟩ := Set.mem_setOf.mpr h
  simp only [eq_zero_of_ne_zero_of_mul_left_eq_zero h₂.ne' <| A_c_eq_zero 0 _ h₁, abs_zero] at h₄
  exact ((abs_nonneg _).trans_lt h₄).false
```

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean [hunk 14]
```diff
@@ -52,4 +53,261 @@ lemma smul_coe (m : R) (g : SpecialLinearGroup n R) (A : FixedDetMatrix n R m) :
...
+            ⟨M.1.1 1 1, reps_entries_le_m' k hk M M.2 1 1⟩⟩)
+    intro M N h
+    ext i j
+    rw [Prod.ext_iff] at h
+    simp only [Fin.isValue, Subtype.mk.injEq, Prod.mk.injEq] at h
+    fin_cases i <;> fin_cases j --is there an easy way to golf this?
+    · exact h.1
+    · exact h.2.1
+    · exact h.2.2.1
+    · exact h.2.2.2
```
Comment (MichaelStollBayreuth) [inline Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:204]:
```suggestion
    simp only [Subtype.mk.injEq, Prod.mk.injEq] at h
    obtain ⟨_, _, _, _⟩ := h
    fin_cases i <;> fin_cases j <;> assumption
```

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean [hunk 15]
```diff
@@ -52,4 +53,261 @@ lemma smul_coe (m : R) (g : SpecialLinearGroup n R) (A : FixedDetMatrix n R m) :
...
+    simp only [Fin.isValue, Set.mem_setOf_eq, mul_eq_zero, Set.mem_empty_iff_false] at *
+    rcases this with hl | hr
+    · exfalso
+      simp only [hl, Fin.isValue, lt_self_iff_false, false_and, and_false] at h
+    · simp only [hr, Fin.isValue, abs_zero] at h
+      exact Lean.Omega.Int.le_lt_asymm (abs_nonneg (A.1 0 1)) (h.2.2.2)
+  · simp only [Set.mem_empty_iff_false, Fin.isValue, Set.mem_setOf_eq, false_implies]
+
+noncomputable instance reps_fintype (k : ℤ) : Fintype (reps k) := by
+  by_cases hk : k ≠ 0
```
Comment (MichaelStollBayreuth) [inline Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:188]:
```suggestion
  by_cases hk : k = 0
  · rw [hk, reps_zero_empty]
    exact Set.fintypeEmpty
```
and then remove the second branch below.

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean [hunk 16]
```diff
@@ -52,4 +53,261 @@ lemma smul_coe (m : R) (g : SpecialLinearGroup n R) (A : FixedDetMatrix n R m) :
...
+      lt_add_neg_iff_add_lt, le_add_neg_iff_add_le, abs_neg]
+      refine ⟨abs_eq_zero.mp h, ?_, ?_, ?_⟩
+      · simp only [Fin.isValue, abs_eq_zero.mp h, mul_zero, neg_zero, Int.lt_iff_le_and_ne, ne_eq]
+        refine ⟨not_lt.mp h1, A_a_ne_zero m A (by simpa using h) hm⟩
+      · rw [le_neg]
+        apply Int.ediv_mul_le; apply A_d_ne_zero m A (by simpa using h) hm
+      · rw [mul_comm, add_comm, ← @Int.sub_eq_add_neg, (Int.emod_def (-A.1 0 1) (A.1 1 1)).symm]
+        apply le_trans _ (Int.emod_lt (-A.1 0 1) (A_d_ne_zero m A (by simpa using h) hm))
+        rw [abs_eq_self.mpr (Int.emod_nonneg (-A.1 0 1) (A_d_ne_zero m A (by simpa using h) hm))]
+  · exact fun A h1 h2 ↦ Eq.mpr (id (congrArg (fun _a ↦ _a ∈ reps m) (reduce_eqn3 m A h1))) h2
```
Comment (MichaelStollBayreuth) [inline Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:240]:
```suggestion
  · exact fun A h1 h2 ↦ reduce_eqn3 m A h1 ▸ h2
```
You should not use the automatically generated lemma `reduce_eqn3` by name. It is better to state the result explicitly (with a suitable name) and prove it by `rfl`, so that it can then be used with a reasonable name.

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean [hunk 17]
```diff
@@ -52,4 +53,261 @@ lemma smul_coe (m : R) (g : SpecialLinearGroup n R) (A : FixedDetMatrix n R m) :
...
+      zero_mul, zero_add, empty_val', cons_val_fin_one, cons_val_one, neg_eq_zero, cons_val_zero,
+      lt_add_neg_iff_add_lt, le_add_neg_iff_add_le, abs_neg]
+      refine ⟨abs_eq_zero.mp h, ?_, ?_, ?_⟩
+      · simp only [Fin.isValue, abs_eq_zero.mp h, mul_zero, neg_zero, Int.lt_iff_le_and_ne, ne_eq]
+        refine ⟨not_lt.mp h1, A_a_ne_zero m A (by simpa using h) hm⟩
+      · rw [le_neg]
+        apply Int.ediv_mul_le; apply A_d_ne_zero m A (by simpa using h) hm
+      · rw [mul_comm, add_comm, ← @Int.sub_eq_add_neg, (Int.emod_def (-A.1 0 1) (A.1 1 1)).symm]
+        apply le_trans _ (Int.emod_lt (-A.1 0 1) (A_d_ne_zero m A (by simpa using h) hm))
+        rw [abs_eq_self.mpr (Int.emod_nonneg (-A.1 0 1) (A_d_ne_zero m A (by simpa using h) hm))]
```
Comment (MichaelStollBayreuth) [inline Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:239]: `Fin.is_value` is not needed in the `simp only` calls. The lines after `simp only` that belong to the same call should be indented by 2 extra spaces (this is a bug in `simp?`).

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean [hunk 18]
```diff
@@ -52,4 +53,261 @@ lemma smul_coe (m : R) (g : SpecialLinearGroup n R) (A : FixedDetMatrix n R m) :
...
+  · intro A h
+    by_cases h1 : 0 < A.1 0 0
+    · simp only [reps, Fin.isValue, reduce_eqn1 m A h h1, zpow_neg, Set.mem_setOf_eq, smul_coe,
+      coe_inv, coe_T_zpow, adjugate_fin_two_of, neg_zero, cons_mul, Nat.succ_eq_add_one,
+      Nat.reduceAdd, empty_mul, Equiv.symm_apply_apply, of_apply, cons_val', vecMul,
+      cons_dotProduct, vecHead, one_mul, vecTail, Function.comp_apply, Fin.succ_zero_eq_one,
+      neg_mul, dotProduct_empty, add_zero, zero_mul, zero_add, empty_val', cons_val_fin_one,
+      cons_val_one, cons_val_zero, lt_add_neg_iff_add_lt, le_add_neg_iff_add_le]
+      refine ⟨abs_eq_zero.mp h, ?_, ?_, ?_⟩
+      · rw [abs_eq_zero.mp h]; simp only [Fin.isValue, mul_zero, h1]
```
Comment (MichaelStollBayreuth) [inline Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:220]:
```suggestion
      · simp only [abs_eq_zero.mp h, mul_zero, h1]
```

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean [hunk 19]
```diff
@@ -52,4 +53,261 @@ lemma smul_coe (m : R) (g : SpecialLinearGroup n R) (A : FixedDetMatrix n R m) :
...
+      · apply Int.ediv_mul_le; apply A_d_ne_zero m A (by simpa only [abs_eq_zero] using h) hm
```
Comment (MichaelStollBayreuth) [inline Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:221]:
```suggestion
      · exact Int.ediv_mul_le _ <| A_d_ne_zero m A (abs_eq_zero.mp h) hm
```

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean [hunk 20]
```diff
@@ -52,4 +53,261 @@ lemma smul_coe (m : R) (g : SpecialLinearGroup n R) (A : FixedDetMatrix n R m) :
...
+      · rw [mul_comm, ← @Int.sub_eq_add_neg, (Int.emod_def (A.1 0 1) (A.1 1 1)).symm]
+        apply le_trans _ (Int.emod_lt (A.1 0 1) (A_d_ne_zero m A (by simpa using h) hm))
+        rw [abs_eq_self.mpr (Int.emod_nonneg (A.1 0 1) (A_d_ne_zero m A (by simpa using h) hm))]
```
Comment (MichaelStollBayreuth) [inline Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:224]:
```suggestion
      · rw [mul_comm, ← Int.sub_eq_add_neg, ← Int.emod_def]
        apply le_trans _ (Int.emod_lt (A.1 0 1) (A_d_ne_zero m A (abs_eq_zero.mp h) hm))
        rw [abs_eq_self.mpr (Int.emod_nonneg (A.1 0 1) (A_d_ne_zero m A (abs_eq_zero.mp h) hm))]
```

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean [hunk 21]
```diff
@@ -52,4 +53,261 @@ lemma smul_coe (m : R) (g : SpecialLinearGroup n R) (A : FixedDetMatrix n R m) :
...
+      · simp only [Fin.isValue, abs_eq_zero.mp h, mul_zero, neg_zero, Int.lt_iff_le_and_ne, ne_eq]
+        refine ⟨not_lt.mp h1, A_a_ne_zero m A (by simpa using h) hm⟩
+      · rw [le_neg]
+        apply Int.ediv_mul_le; apply A_d_ne_zero m A (by simpa using h) hm
+      · rw [mul_comm, add_comm, ← @Int.sub_eq_add_neg, (Int.emod_def (-A.1 0 1) (A.1 1 1)).symm]
+        apply le_trans _ (Int.emod_lt (-A.1 0 1) (A_d_ne_zero m A (by simpa using h) hm))
+        rw [abs_eq_self.mpr (Int.emod_nonneg (-A.1 0 1) (A_d_ne_zero m A (by simpa using h) hm))]
+  · exact fun A h1 h2 ↦ Eq.mpr (id (congrArg (fun _a ↦ _a ∈ reps m) (reduce_eqn3 m A h1))) h2
+
+lemma S_smul_four (A : Δ m) : (S • ( S • (S • ( S • A)))) = A := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:242]:
```suggestion
lemma S_smul_four (A : Δ m) : S • S • S • S • A = A := by
```

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean [hunk 22]
```diff
@@ -52,4 +53,261 @@ lemma smul_coe (m : R) (g : SpecialLinearGroup n R) (A : FixedDetMatrix n R m) :
...
+  simp only [smul_def, ← mul_assoc, S_mul_S_eq, neg_mul, one_mul, mul_neg, neg_neg, Subtype.coe_eta]
+
+lemma T_S_rel (A : Δ m) : (S • S • S • T • S • T • S • A) = T⁻¹ • A := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:245]:
```suggestion
lemma T_S_rel (A : Δ m) : S • S • S • T • S • T • S • A = T⁻¹ • A := by
```

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean [hunk 23]
```diff
@@ -52,4 +53,261 @@ lemma smul_coe (m : R) (g : SpecialLinearGroup n R) (A : FixedDetMatrix n R m) :
...
+  have : S • S • S • T • S • T • S = T⁻¹ := by
+    rw [smul_eq_mul]
```
Comment (MichaelStollBayreuth) [inline Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:247]:
```suggestion
```

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean [hunk 24]
```diff
@@ -52,4 +53,261 @@ lemma smul_coe (m : R) (g : SpecialLinearGroup n R) (A : FixedDetMatrix n R m) :
...
+    ext i j
+    fin_cases i <;> fin_cases j <;> rfl
+  simp_rw [← this, ← smul_assoc]
+
+private lemma prop_red1 {C : Δ m → Prop} (hS : ∀ B, C B → C (S • B)) : ∀ B, C (S • B) → C B := by
+  intro B ih
+  rw [← (S_smul_four m B)]
+  apply hS _ (hS _ (hS _ ih))
```
Comment (MichaelStollBayreuth) [inline Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:255]:
```suggestion
  rw [← S_smul_four m B]
  exact hS _ (hS _ (hS _ ih))
```

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean [hunk 25]
```diff
@@ -52,4 +53,261 @@ lemma smul_coe (m : R) (g : SpecialLinearGroup n R) (A : FixedDetMatrix n R m) :
...
+
+private lemma prop_red2 {C : Δ m → Prop} (hS : ∀ B, C B → C (S • B)) (hT : ∀ B, C B → C (T • B)) :
+    ∀ B, C B → C (T⁻¹ • B) := by
+  intro B ih
+  have h := (hS _ <| hS _ <| hS _ <| hT _ <| hS _ <| hT _ <| hS _ ih)
+  rw [T_S_rel m B] at h
+  exact h
```
Comment (MichaelStollBayreuth) [inline Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:262]:
```suggestion
  have h := hS _ <| hS _ <| hS _ <| hT _ <| hS _ <| hT _ <| hS _ ih
  rwa [T_S_rel m B] at h
```

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean [hunk 26]
```diff
@@ -52,4 +53,261 @@ lemma smul_coe (m : R) (g : SpecialLinearGroup n R) (A : FixedDetMatrix n R m) :
...
+
+private lemma prop_red3 {C : Δ m → Prop} (hS : ∀ B, C B → C (S • B)) (hT : ∀ B, C B → C (T • B)) :
+    ∀ B, C (T • B) → C B := by
+  intro B ih
+  have h := (prop_red2 _ hS hT) (T • B) ih
+  simpa using h
```
Comment (MichaelStollBayreuth) [inline Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:268]:
```suggestion
  simpa only [inv_smul_smul] using prop_red2 _ hS hT (T • B) ih
```

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean [hunk 27]
```diff
@@ -52,4 +53,261 @@ lemma smul_coe (m : R) (g : SpecialLinearGroup n R) (A : FixedDetMatrix n R m) :
...
+    rw [add_comm, zpow_add, ← smul_eq_mul, zpow_one, smul_assoc] at h
+    exact hn <| (prop_red3 _ hS hT) _ h
+  · rw [sub_eq_neg_add, zpow_add, zpow_neg_one]
+    intro h
+    apply hm
+    have := hT _ h
+    rw [smul_def] at this
+    convert this
+    simp only [zpow_neg, zpow_natCast, smul_def, Int.cast_id, coe_inv, coe_pow, adjugate_pow, ←
+      mul_assoc, ← coe_mul, mul_inv_cancel T, one_mul]
```
Comment (MichaelStollBayreuth) [inline Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:285]:
```suggestion
    convert hT _ h using 1
    simp only [zpow_neg, zpow_natCast, smul_def, coe_inv, coe_pow, adjugate_pow, ← mul_assoc, ←
      coe_mul, mul_inv_cancel T, one_mul]
```

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean [hunk 28]
```diff
@@ -52,4 +53,261 @@ lemma smul_coe (m : R) (g : SpecialLinearGroup n R) (A : FixedDetMatrix n R m) :
...
+@[elab_as_elim]
+theorem induction_on {C : Δ m → Prop} (A : Δ m) (hm : m ≠ 0)
+    (h0 : ∀ A : Δ m, A.1 1 0 = 0 → A.1 0 0 * A.1 1 1 = m → 0 < A.1 0 0 → 0 ≤ A.1 0 1 →
+      |(A.1 0 1)| < |(A.1 1 1)| → C A)
+    (hS : ∀ B, C B → C (S • B)) (hT : ∀ B, C B → C (T • B)) : C A := by
+  have h_reduce : C (reduce m A) := by
+    rcases reduce_mem_reps m hm A with ⟨H1, H2, H3, H4⟩
+    apply h0 _ H1 ?_ H2 H3
+    · apply H4
+    · apply A_c_eq_zero _ _ H1
```
Comment (MichaelStollBayreuth) [inline Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:296]:
```suggestion
    exact h0 _ H1 (A_c_eq_zero _ _ H1) H2 H3 H4
```

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean [hunk 29]
```diff
@@ -52,4 +53,261 @@ lemma smul_coe (m : R) (g : SpecialLinearGroup n R) (A : FixedDetMatrix n R m) :
...
+  suffices ∀ A : Δ m, C (reduce m A) → C A from this _ h_reduce
+  apply reduce_rec
+  · intro A h
+    by_cases h1 : 0 < A.1 0 0
+    · rw [reduce_eqn1 _ _ h h1]
+      intro h
+      apply (prop_red4 _ hS hT) A (-(A.1 0 1 / A.1 1 1)) h
```
Comment (MichaelStollBayreuth) [inline Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:303]:
```suggestion
      exact prop_red4 _ hS hT A (-(A.1 0 1 / A.1 1 1))
```

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean [hunk 30]
```diff
@@ -52,4 +53,261 @@ lemma smul_coe (m : R) (g : SpecialLinearGroup n R) (A : FixedDetMatrix n R m) :
...
+    · rw [reduce_eqn2 _ _ h h1]
+      intro h
+      exact (prop_red1 _ hS) _ <| (prop_red1 _ hS) _ ((prop_red4 _ hS hT) _ _ h)
```
Comment (MichaelStollBayreuth) [inline Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:306]:
```suggestion
      exact fun h ↦ prop_red1 _ hS _ <| prop_red1 _ hS _ (prop_red4 _ hS hT _ _ h)
```

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean [hunk 31]
```diff
@@ -52,4 +53,261 @@ lemma smul_coe (m : R) (g : SpecialLinearGroup n R) (A : FixedDetMatrix n R m) :
...
+  intro A hc ih hA
+  rw [reduce_eqn3 _ _ hc] at hA
+  exact (prop_red4 _ hS hT) _ _ <| (prop_red1 _ hS) _ (ih hA)
```
Comment (MichaelStollBayreuth) [inline Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:309]:
```suggestion
  exact prop_red4 _ hS hT _ _ <| prop_red1 _ hS _ (ih hA)
```

**Comment by MichaelStollBayreuth** [comment]
A general remark: in may declarations `m` and/or `A` can be implicit (`m` can be deduced from the type of `A`, and `A` can be deduced from conditions on `A` when present).

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean (hunk 7 above)
Comment (CBirkbeck) [reply Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:149]: That was me using `show_term`

**Comment by MichaelStollBayreuth** [comment]
To avoid the "Post PR summary comment / ..." error, merge master.

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean (hunk 20 above)
Comment (CBirkbeck) [reply Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean]: I think that having those extra versions might be overkill, so instead I just left the version thats used the most (the one with `abs`).

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean [hunk 32]
```diff
@@ -52,4 +53,228 @@ lemma smul_coe (m : R) (g : SpecialLinearGroup n R) (A : FixedDetMatrix n R m) :
...
+  if |(A.1 1 0)| = 0 then
+    if  0 < A.1 0 0 then (T ^ (-(A.1 0 1/A.1 1 1))) • A else
+      (T ^ (-(-A.1 0 1/ -A.1 1 1))) • ( S • ( S • A)) --the -/- don't cancel with ℤ divs.
+  else
+    reduce (reduce_step A)
+  termination_by b => Int.natAbs (b.1 1 0)
+  decreasing_by
+      next a h =>
+      zify
+      exact reduce_aux h
```
Comment (MichaelStollBayreuth) [inline Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:105]:
```suggestion
    next a h =>
    zify
    exact reduce_aux h
```
I would think (see `reduce_rec` above).

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean [hunk 33]
```diff
@@ -52,4 +53,228 @@ lemma smul_coe (m : R) (g : SpecialLinearGroup n R) (A : FixedDetMatrix n R m) :
...
+      omega
+    · simp_rw [← A_c_eq_zero h.1, abs_mul]
+      exact (le_abs_self (A.1 0 1)).trans <| h.2.2.2.le.trans (le_mul_of_one_le_left h1.le h2)
+  · simp only [Fin.mk_one, Fin.zero_eta, h.1, Finset.mem_Icc, Left.neg_nonpos_iff, abs_nonneg,
+      and_self]
+  · simp only [Fin.mk_one, ← A_c_eq_zero h.1, abs_mul, Finset.mem_Icc]
+    constructor
+    · rw [neg_le]
+      exact (neg_le_abs (A.1 1 1)).trans ((le_mul_iff_one_le_left h1).mpr h2)
+    · exact (le_abs_self (A.1 1 1)).trans ((le_mul_iff_one_le_left h1).mpr h2)
```
Comment (MichaelStollBayreuth) [inline Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:158]:
```suggestion
  suffices |A.1 i j| ≤ |m| from Finset.mem_Icc.mpr <| abs_le.mp this
  have h1 : 0 < |A.1 1 1| := abs_pos.mpr (A_d_ne_zero (abs_eq_zero.mpr h.left) hm)
  have h2 : 0 < |A.1 0 0| := abs_pos.mpr (A_a_ne_zero h.left hm)
  fin_cases i <;> fin_cases j
  · simpa only [Fin.zero_eta, ← A_c_eq_zero h.1, abs_mul]
    using (le_mul_iff_one_le_right h2).mpr h1
  · simpa only [Fin.zero_eta, Fin.mk_one, ← A_c_eq_zero h.1, abs_mul]
    using h.2.2.2.le.trans (le_mul_of_one_le_left h1.le h2)
  · simp only [Fin.mk_one, Fin.isValue, Fin.zero_eta, h.1, abs_zero, abs_nonneg]
  · simpa only [Fin.mk_one, ← A_c_eq_zero h.1, abs_mul] using (le_mul_iff_one_le_left h1).mpr h2
```
Going via the absolute value makes this easier, because there is some API available.

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean [hunk 34]
```diff
@@ -52,4 +53,228 @@ lemma smul_coe (m : R) (g : SpecialLinearGroup n R) (A : FixedDetMatrix n R m) :
...
+      ⟨⟨M.1.1 0 0, reps_entries_le_m' hk M.2 0 0⟩,
+        ⟨M.1.1 0 1, reps_entries_le_m' hk M.2 0 1⟩,
+          ⟨M.1.1 1 0, reps_entries_le_m' hk M.2 1 0⟩,
+            ⟨M.1.1 1 1, reps_entries_le_m' hk M.2 1 1⟩⟩)
+    intro M N h
+    ext i j
+    rw [Prod.ext_iff] at h
+    simp only [Subtype.mk.injEq, Prod.mk.injEq] at h
+    obtain ⟨_, _, _, _⟩ := h
+    fin_cases i <;> fin_cases j <;> assumption
```
Comment (MichaelStollBayreuth) [inline Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:183]:
```suggestion
    let H4 := Fin 2 → Fin 2 → H
    apply Fintype.ofInjective (β := H4)
      (f := fun (M : reps k) ↦ fun i j ↦ ⟨M.1.1 i j, reps_entries_le_m' hk M.2 i j⟩)
    intro M N h
    ext i j
    simpa only [Subtype.mk.injEq] using congrFun₂ h i j
```
Using the matrix structure `Fin 2 → Fin 2 → ...` seems more natural here.

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean [hunk 35]
```diff
@@ -52,4 +53,210 @@ lemma smul_coe (m : R) (g : SpecialLinearGroup n R) (A : FixedDetMatrix n R m) :
...
+        zero_mul, zero_add, empty_val', cons_val_fin_one, cons_val_one, neg_eq_zero, cons_val_zero,
+        lt_add_neg_iff_add_lt, le_add_neg_iff_add_le, abs_neg]
+      refine ⟨abs_eq_zero.mp h, ?_, ?_, ?_⟩
+      · simp only [abs_eq_zero.mp h, mul_zero, neg_zero, Int.lt_iff_le_and_ne, ne_eq]
+        refine ⟨not_lt.mp h1, A_a_ne_zero (abs_eq_zero.mp h) hm⟩
+      · rw [le_neg]
+        exact Int.ediv_mul_le _ <| A_d_ne_zero h hm
+      · rw [mul_comm, add_comm, ← Int.sub_eq_add_neg, ← Int.emod_def]
+        apply le_trans _ (Int.emod_lt (-A.1 0 1) (A_d_ne_zero h hm))
+        rw [abs_eq_self.mpr (Int.emod_nonneg (-A.1 0 1) (A_d_ne_zero h hm))]
```
Comment (MichaelStollBayreuth) [inline Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:197]:
```suggestion
    have hd := A_d_ne_zero h hm
    by_cases h1 : 0 < A.1 0 0
    focus simp only [reduce_of_pos h h1]
    swap
    focus simp only [reduce_of_not_pos h h1]
    swap
    all_goals
      simp only [reps, zpow_neg, Set.mem_setOf_eq, smul_coe, coe_inv, coe_T_zpow,
        adjugate_fin_two_of, neg_zero, cons_mul, Nat.succ_eq_add_one, Nat.reduceAdd, empty_mul,
        Equiv.symm_apply_apply, of_apply, cons_val', vecMul, cons_dotProduct, vecHead, one_mul,
        vecTail, Function.comp_apply, Fin.succ_zero_eq_one, neg_mul, dotProduct_empty, add_zero,
        zero_mul, zero_add, empty_val', cons_val_fin_one, cons_val_one, cons_val_zero,
        lt_add_neg_iff_add_lt, le_add_neg_iff_add_le, Int.ediv_neg, neg_neg, smul_def, ← mul_assoc,
        S_mul_S_eq, mul_neg, neg_of, neg_cons, neg_empty, Pi.neg_apply, neg_add_rev, neg_eq_zero,
        abs_neg, ← le_neg, abs_eq_zero.mp h, true_and, mul_zero, lt_neg]
    · refine ⟨h1, Int.ediv_mul_le _ hd, ?_⟩
      rw [mul_comm, ← Int.sub_eq_add_neg, ← Int.emod_def, abs_eq_self.mpr <| Int.emod_nonneg _ hd]
      exact Int.emod_lt _ hd
    · refine ⟨?_, Int.ediv_mul_le _ hd, ?_⟩
      · simp only [Int.lt_iff_le_and_ne]
        exact ⟨not_lt.mp h1, A_a_ne_zero (abs_eq_zero.mp h) hm⟩
      · rw [mul_comm, add_comm, ← Int.sub_eq_add_neg, ← Int.emod_def,
         abs_eq_self.mpr <| Int.emod_nonneg _ hd]
        exact Int.emod_lt _ hd
```
Trying to write this a bit more compactly (and making use of the fact that both branches are quite similar).

**Review by MichaelStollBayreuth — APPROVED** [review]
Modulo a minor naming issue, this looks good to me now.

maintainer delegate?

**Comment by riccardobrasca** [comment]
Thanks!

bors merge

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean [hunk 36]
```diff
@@ -52,4 +53,205 @@ lemma smul_coe (m : R) (g : SpecialLinearGroup n R) (A : FixedDetMatrix n R m) :
...
+    |((reduce_step A).1 1 0)| < |(A.1 1 0)| := by
+  simp_rw [reduce_step, smul_coe, coe_T_zpow, S]
+  simpa only [Int.reduceNeg, cons_mul, Nat.succ_eq_add_one, Nat.reduceAdd, empty_mul,
+    Equiv.symm_apply_apply, vecMul_cons, vecHead, cons_val_zero, zero_smul, vecTail,
+    Function.comp_apply, Fin.succ_zero_eq_one, cons_val_one, cons_val_fin_one, neg_smul, one_smul,
+    empty_vecMul, add_zero, zero_add, of_apply, cons_val', Pi.neg_apply, vecMul, cons_dotProduct,
+    zero_mul, one_mul, dotProduct_empty, mul_comm, mul_neg, ← Int.sub_eq_add_neg,
+    ← Int.emod_def (A.1 0 0) (A.1 1 0), empty_val',
+    abs_eq_self.mpr (Int.emod_nonneg (A.1 0 0) (abs_ne_zero.mp h))]
+  using Int.emod_lt (A.1 0 0) (abs_ne_zero.mp h)
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:79]:
```suggestion
  rw [abs_ne_zero] at h
  suffices ((reduce_step A).1 1 0) = A.1 0 0 % A.1 1 0 by
    rw [this, abs_eq_self.mpr (Int.emod_nonneg (A.1 0 0) h)]
    exact Int.emod_lt (A.1 0 0) h
  simp_rw [Int.emod_def, sub_eq_add_neg, reduce_step, smul_coe, coe_T_zpow, S]
  norm_num [vecMul, vecHead, vecTail, mul_comm]
```

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean [hunk 37]
```diff
@@ -52,4 +53,205 @@ lemma smul_coe (m : R) (g : SpecialLinearGroup n R) (A : FixedDetMatrix n R m) :
...
+
+/--Reduction lemma for integral FixedDetMatrices. -/
+@[elab_as_elim]
+def reduce_rec {C : Δ m → Sort*} (h0 : ∀ A : Δ m, |(A.1 1 0)| = 0 → C A)
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:83]: Why do you want an absolute value in the statement of `h0` and `h1`?
I understand this might be useful for the proof, but is it also the best for applications?

**Comment by jcommelin** [comment]
bors r-

sorry, I was a bit slow with my review

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean (hunk 37 above)
Comment (CBirkbeck) [reply Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean]: yeah thats a good point, I think its just a leftover from some old stuff. I've updated it now! thanks!

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean [hunk 38]
```diff
@@ -52,4 +53,201 @@ lemma smul_coe (m : R) (g : SpecialLinearGroup n R) (A : FixedDetMatrix n R m) :
...
+  termination_by A => Int.natAbs (A.1 1 0)
+  decreasing_by
+    zify
+    exact reduce_aux h
+
+/--Map from `Δ m → Δ m` which reduces a FixedDetMatrix towards a representative element in reps. -/
+def reduce : Δ m → Δ m := fun A ↦
+  if (A.1 1 0) = 0 then
+    if 0 < A.1 0 0 then (T ^ (-(A.1 0 1/A.1 1 1))) • A else
+      (T ^ (-(-A.1 0 1/ -A.1 1 1))) • ( S • ( S • A)) --the -/- don't cancel with ℤ divs.
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:94]:
```suggestion
    if 0 < A.1 0 0 then (T ^ (-(A.1 0 1 / A.1 1 1))) • A else
      (T ^ (-(-A.1 0 1 / -A.1 1 1))) • (S • (S • A)) --the -/- don't cancel with ℤ divs.
```

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean [hunk 39]
```diff
@@ -52,4 +53,201 @@ lemma smul_coe (m : R) (g : SpecialLinearGroup n R) (A : FixedDetMatrix n R m) :
...
+  else
+    reduce (reduce_step A)
+  termination_by b => Int.natAbs (b.1 1 0)
+  decreasing_by
+    next a h =>
+    zify
+    exact reduce_aux h
+
+lemma reduce_of_pos {A : Δ m} (hc : (A.1 1 0) = 0) (ha : 0 < A.1 0 0) :
+    reduce A = (T ^ (-(A.1 0 1/A.1 1 1))) • A := by
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:104]:
```suggestion
    reduce A = (T ^ (-(A.1 0 1 / A.1 1 1))) • A := by
```

File: Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean [hunk 40]
```diff
@@ -52,4 +53,201 @@ lemma smul_coe (m : R) (g : SpecialLinearGroup n R) (A : FixedDetMatrix n R m) :
...
+  rw [reduce]
+  simp only [zpow_neg, Int.ediv_neg, neg_neg] at *
+  simp_rw [if_pos hc, if_pos ha]
+
+lemma reduce_of_not_pos {A : Δ m} (hc : (A.1 1 0) = 0) (ha : ¬ 0 < A.1 0 0) :
+    reduce A = (T ^ (-(-A.1 0 1/ -A.1 1 1))) • ( S • ( S • A)) := by
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/Matrix/FixedDetMatrices.lean:110]:
```suggestion
    reduce A = (T ^ (-(-A.1 0 1 / -A.1 1 1))) • (S • (S • A)) := by
```

**Comment by jcommelin** [comment]
@CBirkbeck I created a branch with several suggestions: #19545 
Please take from this what you like.

**Comment by CBirkbeck** [comment]
Thanks for all the suggestions! I've incorporated basically everything and made a few little changes.

**Comment by CBirkbeck** [comment]
So any other comments on this?

**Comment by MichaelStollBayreuth** [comment]
> So any other comments on this?

I'd like @jcommelin to chime in here (as he stepped in after my "maintainer delegate").

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
